US04128540
To a mixture consisting of 13.1 g. of L-leucine, 6 g. of magnesium oxide, and 150 ml. of water is added a solution of 25.3 g. of benzhydrylazidoformate in 150 ml. of dioxane, and the resulting mixture is stirred at room temperature for 2 days. It is then filtered, and the filtrate is concentrated to remove the dioxane. The aqueous concentrate is acidified with solid citric acid, and the acidified mixture is extracted with ethyl acetate. The extract is dried and evaporated to dryness to give an oily residue of N-benzhydryloxycarbonyl-L-leucine, which is suitable for use without further purification. To a mixture of 32 g. of this intermediate product, 25 g. of pentachlorophenol, and 300 ml. of ethyl acetate, at 5° C., is added 20 g. of dicyclohexylcarbodiimide, and the resulting mixture is kept at 5° C. for 5 hours and filtered. The filtrate is concentrated to small volume, and the concentrate is treated with petroleum ether to give a precipitate of N-benzhydryloxycarbonyl-L-leucine pentachlorophenyl ester, which is isolated and crystallized from ethanol-water; m.p. 84°-86° C.; [α]D25 -27.8° (2% in methanol).

reactant | L-leucine | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
reactant | magnesium oxide | [O-2].[Mg+2]
reactant | water | O | H2O
reactant | benzhydrylazidoformate | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)N=[N+]=[N-] | C14H11N3O2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | N-benzhydryloxycarbonyl-L-leucine | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)N[C@@H](CC(C)C)C(=O)O | C20H23NO4
